US06087392
Sodium 4-(2-Cyclopentylethoxy)Benzenesulfonate
A solution of 4-hydroxybenzenesulfonic acid (6.5 grams, 28.2 mmole) and sodium hydroxide (2.2 grams, 55 mmole) in water (15 mL) was mixed with a solution of 2-(bromoethyl)cyclopentane (15.0 grams, 84.7 mmole) in isopropanol (40 mL) and the resulting mixture was heated at reflux for 2 days. The isopropanol was removed by evaporation under vacuum. The titled compound, 4.7 grams (57%), was collected by filtration and washed with isopropanol.

reactant | 4-hydroxybenzenesulfonic acid | 28.2 mmole, 6.5 grams | OC1=CC=C(C=C1)S(=O)(=O)O | C6H6O4S
reactant | sodium hydroxide | 55 mmole, 2.2 grams | [OH-].[Na+]
reactant | 2-(bromoethyl)cyclopentane | 84.7 mmole, 15.0 grams | BrCCC1CCCC1 | C7H13Br
solvent | water | 15 mL | O | H2O
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | Sodium 4-(2-Cyclopentylethoxy)Benzenesulfonate | C1(CCCC1)CCOC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C13H18O4S.Na/c14-18(15,16)13-7-5-12(6-8-13)17-10-9-11-3-1-2-4-11;/h5-8,11H,1-4,9-10H2,(H,14,15,16);/q;+1/p-1
